US05804588
8-t-Butyldimethylsilyloxyquinaldine
8-Hydroxyquinaldine (10 g), t-butyldimethylsilyl chloride (10 g) and imidazole (8.6 g) were dissolved in N,N-dimethylformamide (150 ml) and stirred at ambient temperature overnight. Further t-butyldimethylsilyl chloride (4.7 g) was added and the reaction stirred for another 30 minutes. The reaction was diluted with water (600 ml) and extracted with dichloromethane (3×300 ml). The combined organic phases were dried over magnesium sulphate and concentrated in vacuo to afford the title compound as an orange oil (17 g).

reactant | 8-Hydroxyquinaldine | 10 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | t-butyldimethylsilyl chloride | 10 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 8.6 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 4.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 8-t-Butyldimethylsilyloxyquinaldine | 17 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)C | C16H23NOSi
